US07022725B2
To a solution of ethyl 5-(4-methylphenyl)isoxazole-4-carboxylate (7.70 g) in tetrahydrofuran (100 ml) was gently added diisobutylaluminum hydride (1.0 M toluene solution, 83 ml) at 0° C. and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was dissolved in toluene (100 ml) and thionyl chloride (5.94 g) was added dropwise at 0° C., after which the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, saturated aqueous sodium hydrogencarbonate was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and 4-chloromethyl-5-(4-methylphenyl)isoxazole (6.49 g, yield 94%) was obtained as an oil from a fraction eluted with ethyl acetate-hexane (1:9, volume ratio). NMR (CDCl3) δ: 2.44 (3H, s), 4.62 (2H, s), 7.34 (2H, d, J=8 Hz), 7.67 (2H, d, J=8 Hz), 8.35 (1H, s).

reactant | ethyl 5-(4-methylphenyl)isoxazole-4-carboxylate | 7.70 g | CC1=CC=C(C=C1)C1=C(C=NO1)C(=O)OCC | C13H13NO3
reactant | diisobutylaluminum hydride | 1.0 M, 83 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 4-chloromethyl-5-(4-methylphenyl)isoxazole | 6.49 g, yield 94% | ClCC=1C=NOC1C1=CC=C(C=C1)C | C11H10ClNO
